US07834051B2
4-[(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile
Using 4-iodo-2-(trifluoromethyl)benzonitrile (958 mg), (4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one (500 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (286 mg), tris(dibenzylideneacetone)dipalladium(0) (148 mg) and cesium carbonate (1.55 g), and in the same manner as in Example 62, the title compound was obtained as colorless crystals (yield: 508 mg, 52%).

reactant | 4-iodo-2-(trifluoromethyl)benzonitrile | 958 mg | IC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F3IN
reactant | (4S,5S)-4-hydroxy-4,5-dimethylpyrrolidin-2-one | 500 mg | O[C@]1(CC(N[C@H]1C)=O)C | C6H11NO2
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 286 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | cesium carbonate | 1.55 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 148 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[(2S,3S)-3-hydroxy-2,3-dimethyl-5-oxopyrrolidin-1-yl]-2-(trifluoromethyl)benzonitrile | O[C@@]1([C@@H](N(C(C1)=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)C)C | C14H13F3N2O2
